US07109225B2
a] Isobutyrylamino-acetic acid ethyl ester
10.00 g of glycine ethyl ester hydrochloride (71.6 mmol) and 21.97 ml of NEt3 (2.2 eq.) were dissolved in 200 ml of CH2Cl2 and treated between 0° and 5° dropwise with 7.81 ml of isobutyryl chloride (1.05 eq.), dissolved in 50 ml of CH2Cl2. The reaction mixture was allowed to reach ambient temperature (2.5 h) and then quenched by carefully pouring onto crashed ice/HCl/AcOEt. Separation of the layers, additional extraction of the aqueous phase with AcOEt, washing with Na2CO3 and brine, drying of the combined organic phase over magnesium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=6/4) yielded 11.74 g of the title compound as colorless oil.

reactant | glycine ethyl ester hydrochloride | 71.6 mmol, 10.00 g | Cl.C(C)OC(CN)=O
reactant | NEt3 | 21.97 ml, 2.2 eq. | CCN(CC)CC | C6H15N
reactant | isobutyryl chloride | 7.81 ml, 1.05 eq. | C(C(C)C)(=O)Cl | C4H7ClO
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | Isobutyrylamino-acetic acid ethyl ester | 11.74 g | C(C)OC(CNC(C(C)C)=O)=O | C8H15NO3
